US08022068B2
b) [(2R,4R,5R)-4-[4-((S)-3-Methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-acetic acid [1-dimethylamino-meth-(E)-ylidene]-hydrazide
A solution of 1 mmol of [(2R,4R,5R)-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-acetic acid hydrazide in 5 ml of CH2Cl2 is treated at RT with 1.1 mmol of N,N-dimethylformamide dimethylacetal and refluxed for 1 h. The mixture is cooled to RT, and concentrated under reduced pressure to afford the title compound as a viscous brown-orange oil. Rt=4.75 (gradient I).

reactant | [(2R,4R,5R)-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-acetic acid hydrazide | 1 mmol | COC[C@@H](COCC1=CC=C(C=C1)[C@H]1C[C@@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)CC(=O)NN)C | C39H54N4O8S
reactant | N,N-dimethylformamide dimethylacetal | 1.1 mmol | COC(N(C)C)OC | C5H13NO2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | [(2R,4R,5R)-4-[4-((S)-3-Methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-acetic acid [1-dimethylamino-meth-(E)-ylidene]-hydrazide | CN(\C=N\NC(C[C@@H]1N(C[C@@H]([C@H](C1)C1=CC=C(C=C1)COC[C@H](COC)C)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)=O)C | C42H59N5O8S
